US07618975B2
N2,N4-Dimethyl-N2,N4-diphenyl-quinazoline-2,4-diamine
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and N-methylaniline (40 μL, 0.401 mmol) by a procedure similar to example 1b and was isolated as white powder (33 mg, 66%). 1H NMR (CDCl3): 7.54 (dd, J=8.2 and 0.6 Hz, 1H), 7.45 (dd, J=8.4 and 1. Hz, 1H), 7.44-7.29 (m, 6H), 7.21-7.10 (m, 4H), 6.86 (dd, J=8.4 and 0.9 Hz, 1H), 6.67 (ddd, J=8.4, 7.2 and 1.1 Hz, 1H), 3.69 (s, 3H), 3.33 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | N-methylaniline | 0.401 mmol, 40 μL | CNC1=CC=CC=C1 | C7H9N
product | N2,N4-Dimethyl-N2,N4-diphenyl-quinazoline-2,4-diamine | CN(C1=NC2=CC=CC=C2C(=N1)N(C1=CC=CC=C1)C)C1=CC=CC=C1 | C22H20N4
